US03935253
A solution of 2.5 g of 6-hydroxy-1-methyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene in 5 ml of pyridine and 50 ml of methylene chloride was treated at -10° with 1.73 ml of propionyl chloride. After 3 hours stirring, the solution was poured on to ice and worked up in a conventional manner. After distillation of the crude product under high vacuum, there were obtained 3.15 g (96%) of pure 1-methyl-4-methylene-6-propionyloxy-2,3,3a,4,5,6,7,8-octahydroazulene; b.p.0.05 65-70°; IR(film):νmax = 1380, 1730, 1640, 1460, 1440, 1375, 1340, 1270, 1190, 1158, 1080, 1018, 895 cm-1. The compound has a woody, spicy, balsamic, slightly earthy odour.

reactant | 6-hydroxy-1-methyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene | 2.5 g | OC1CC(C2CCC(=C2CC1)C)=C | C12H18O
reactant | propionyl chloride | 1.73 ml | C(CC)(=O)Cl | C3H5ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-4-methylene-6-propionyloxy-2,3,3a,4,5,6,7,8-octahydroazulene | 3.15 g, 96% | CC=1CCC2C(CC(CCC12)OC(CC)=O)=C | C15H22O2
